US08242104B2
8-Bromo-2-[2-(2,4-difluoro-phenyl)-5-methyl-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene was reacted with zinc cyanide, and Tetrakis(triphenylphosphine)palladium(0) in DMF under microwave irradiation at 60 W for 30 minutes (Tmax=175° C.) to give 2-[2-(2,4-difluoro-phenyl)-5-methyl-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-8-carbonitrile. MS (ESI+) 405.1

reactant | 8-Bromo-2-[2-(2,4-difluoro-phenyl)-5-methyl-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene | BrC1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=C(N2)C)C2=C(C=C(C=C2)F)F)C=C1 | C20H14BrF2N5O
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | [C-]#N.[Zn+2].[C-]#N
catalyst | Tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[2-(2,4-difluoro-phenyl)-5-methyl-2H-[1,2,4]triazol-3-yl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-8-carbonitrile | FC1=C(C=CC(=C1)F)N1N=C(N=C1C1=CN2CCOC3=C(C2=N1)C=CC(=C3)C#N)C | C21H14F2N6O
